US09193693B2
2-(1H-Indol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid
Into a 10-mL sealed tube, was placed methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (60 mg, 0.20 mmol, 1.00 equiv), 1H-indol-5-ylboronic acid (100 mg, 0.62 mmol, 3.05 equiv), Pd(PPh3)4 (23.6 mg, 0.02 mmol, 0.10 equiv), K3PO4 (174 mg, 0.82 mmol, 4.01 equiv), 1,4-dioxane/H2O (4/1 mL). The resulting solution was stirred for overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1). The crude product (60 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-2): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (30% CH3CN up to 55% in 8 min, hold 55% in 3 min, up to 100% in 0.1 min, hold 100% in 0.9 min); Detector, UV 220&254 nm. This resulted in 25 mg (33%) of 2-(1H-indol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a red solid.

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.20 mmol, 60 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 1H-indol-5-ylboronic acid | 0.62 mmol, 100 mg, 3.05 equiv | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | K3PO4 | 0.82 mmol, 174 mg, 4.01 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.02 mmol, 23.6 mg, 0.10 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane H2O | 1 mL | O1CCOCC1.O
product | 2-(1H-Indol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | N1C=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C21H20N4O2
